US04546186
1,4,5,6,7,8-Hexahydro-2-methyl-4-(1-methyl-1H-imidazol-2-yl)-5-oxo-3-quinolinecarboxylic acid ethyl ester
A mixture of N-methyl-imidazole-2-carboxaldehyde (4.9 g, 0.045 mole), 1,3-cyclohexandione (5.8 g, 0.045 mole), and ethyl-3-aminocrotonate (5.04 g, 0.045 mole), in 50 mL of absolute ethanol was refluxed for 24 hours. The reaction mixture was cooled and the separated solid was filtered and recrystallized from a hexane-ethylacetate (1:1) mixture to afford 5.2 g (37% yield) of the title compound, m.p. 271°-272° C.; MS, m/e 315 (M+); NMR (CDCl3) δ 1.0 (t, 3 H, CCH 3), 1.5-2.4 (m, 6 H, cyclohexanone), 2.5 (s, 3 H, =CCH3), 3.9-4.1 (q, 2 H, CH2C), 4.0 (s, 3 H, NCH3), 5.2 (s, 1 H, dihydropyridine-H), 6.3 (d, 1 H, imidazole-H), 6.5 (d, 1 H, imidazole-H) and 9.5 (s, 1 H, NH).

reactant | N-methyl-imidazole-2-carboxaldehyde | 0.045 mole, 4.9 g | CN1C(=NC=C1)C=O | C5H6N2O
reactant | 1,3-cyclohexandione | 0.045 mole, 5.8 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | ethyl-3-aminocrotonate | 0.045 mole, 5.04 g | C(C)OC(\C=C(\C)/N)=O | C6H11NO2
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 1,4,5,6,7,8-Hexahydro-2-methyl-4-(1-methyl-1H-imidazol-2-yl)-5-oxo-3-quinolinecarboxylic acid ethyl ester | 5.2 g, 37% yield | C(C)OC(=O)C1=C(NC=2CCCC(C2C1C=1N(C=CN1)C)=O)C | C17H21N3O3
